US05604229
(1) 2-Acetamido-1,3-diacetoxy-2-(4-octylsulfonylbenzyl)propane
To a solution (10 ml) of 2-acetamido-1,3-diacetoxy-2-(4octylsulfinylbenzyl)propane (330 mg) in chloroform was added m-chloroperbenzoic acid (244 mg) under ice-cooling. The mixture was stirred for 2.5 hours and then at room temperature for 1.5 hours. Calcium hydroxide (0.1 g) was added to the reaction mixture and the mixture was stirred at room temperature for 45 minutes. The insoluble matters were filtered off and the filtrate was concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give 162 mg of the subject compound.

reactant | 2-acetamido-1,3-diacetoxy-2-(4octylsulfinylbenzyl)propane | 10 ml, 330 mg | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CC1=CC=C(C=C1)S(=O)CCCCCCCC | C24H37NO6S
reactant | m-chloroperbenzoic acid | 244 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Calcium hydroxide | 0.1 g | [OH-].[Ca+2].[OH-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Acetamido-1,3-diacetoxy-2-(4-octylsulfonylbenzyl)propane | 162 mg | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CC1=CC=C(C=C1)S(=O)(=O)CCCCCCCC | C24H37NO7S
